US04792208
N-(6-Acetoxyhexyl)-N-methylaniline
A mixture of 210 g (1.01 mol) of N-(6-hydroxyhexyl)-N-methylaniline, 112 g (1.10 mol) of acetic anhydride, and 86 g (1.1 mol) of pyridine was heated at reflux with stirring for 2 hours. After cooling, the solution was poured onto 500 g of ice and extracted with ethyl acetate (4×300 mL). The combined extracts were dried (MgSO4) and the solvent was removed at reduced pressure. The residue was distilled in vacuo, collecting the fraction boiling at 130° C. (0.01 mm). Yield: 231 g (93%) of a colorless oil.

reactant | N-(6-hydroxyhexyl)-N-methylaniline | 1.01 mol, 210 g | OCCCCCCN(C1=CC=CC=C1)C | C13H21NO
reactant | acetic anhydride | 1.10 mol, 112 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 1.1 mol, 86 g | N1=CC=CC=C1 | C5H5N
product | N-(6-Acetoxyhexyl)-N-methylaniline | C(C)(=O)OCCCCCCN(C1=CC=CC=C1)C | C15H23NO2
